US04150153
To a stirred, ice-cooled slurry of 35 g. of imidazole in 25 ml. of dimethylformamide is added 24.9 g. of bromomethyl 2-naphthyl ketone. The mixture is stirred for 2 hours at 0° C., and then allowed to come to room temperature and stirred overnight. The solution is poured into water and the resulting sticky solid filtered off, washed with water and dissolved in benzene. Thereafter the resultant benzene solution is dried (azeotroped) to afford 1-(2-naphthoylmethyl)imidazole which is converted to its hydrochloride acid addition salt by addition of ethereal hydrogen chloride until precipitation is complete. The salt is crystallized by the addition of ethyl acetate and the resulting solid recrystallized from methanol/acetone to yield colorless needles of 1-(2-naphthoylmethyl)imidazole hydrochloride, m.p. 226°-228.5° C. (decomp.).

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | bromomethyl 2-naphthyl ketone | C1=C(C=CC2=CC=CC=C12)C(=O)CBr | C12H9BrO
solvent | water | O | H2O
product | 1-(2-naphthoylmethyl)imidazole | C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1 | C15H12N2O
